US06380387B1
To a suspension of N-[(2,6-difluorophenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine (0.743 mmol, 340 mg) and sodium bicarbonate (5.94 mmol, 499 mg) in DMF (3.0 mL) was added 1-chloroethyl acetate (5.94 mmol, 0.73 g) at room temperature. The mixture was stirred for 48 h at room temperature. Then, the reaction mixture was poured into water (50 mL) and was extracted with ethyl acetate (3×25 mL). The combined extracts were washed with brine solution (80 mL) and were dried over anhydrous sodium sulfate. Filtration of the drying agent and concentration of the filtrate gave the crude product which was purified by silica gel chromatography using a Biotage (40m) column to obtain 265 mg (66% yield) of N-[(2,6-difluorophenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine 1-(acetoxy)ethyl ester as an amorphous white solid. ES-HRMS m/e calcd for C27H27F2N3O7 (M+Na) 566.1709, found 566.1710.

reactant | N-[(2,6-difluorophenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine | 0.743 mmol, 340 mg | FC1=C(C(=CC=C1)F)C(=O)N[C@@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)C(=O)O | C23H21F2N3O5
reactant | sodium bicarbonate | 5.94 mmol, 499 mg | C([O-])(O)=O.[Na+]
reactant | 1-chloroethyl acetate | 5.94 mmol, 0.73 g | C(C)(=O)OC(C)Cl | C4H7ClO2
reactant | water | 50 mL | O | H2O
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | N-[(2,6-difluorophenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine 1-(acetoxy)ethyl ester | 265 mg, 66% yield | C(C)(=O)OC(C)OC([C@@H](NC(=O)C1=C(C=CC=C1F)F)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)=O | C27H27F2N3O7
